US06689922B1
(Z)-9-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyldec-8-en-3-ol
In a manner similar to Example 53(e), by reacting 1.21 g (2.58 mmol) of dimethyl 4-(3-((Z)-7-ethyl-7-hydroxy-1-methylnon-1-enyl)phenoxymethyl]-phthalate (prepared in a manner similar to Example 73(a)) with 170 mg (7.76 mmol) of lithium borohydride, a colourless oil is obtained (m=865 mg; Y=81%).

reactant | dimethyl 4-(3-((Z)-7-ethyl-7-hydroxy-1-methylnon-1-enyl)phenoxymethyl]-phthalate | 2.58 mmol, 1.21 g | C(C)C(CCCC\C=C(\C)/C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C29H38O6
reactant | lithium borohydride | 7.76 mmol, 170 mg | [BH4-].[Li+]
product | (Z)-9-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyldec-8-en-3-ol | OCC=1C=C(COC=2C=C(C=CC2)\C(=C/CCCCC(CC)(O)CC)\C)C=CC1CO | C27H38O4
